US20010056203A1
Preparation of 2-(4-benzyloxycarbonylphenoxy)-1-trifluoromethyl-3,4,5,6-tetrafluorobenzene
35.4 g of octafluorotoluene (0.15 mol) are dissolved in 400 ml of dimethylformamide, the solution is cooled to 0° C. using a cryostat, and a solution of 40 g of potassium 4-benzyloxycarbonylphenoxide (0.15 mol) in 300 ml of dimethylformamide is then added dropwise over the course of 2 hours. After 24 hours at 0° C., the potassium salt has reacted. The dimethylformamide is then removed in a rotary evaporator, the residue is taken up in a little tetrahydrofuran, and the solution is filtered through a silica-gel column. The clear solution obtained is evaporated in a rotary evaporator until the reaction product precipitates out. The reaction product is then stirred in n-hexane, filtered off through a fluted filter and then dried for 48 hours under nitrogen at 40° C./10 mbar in a vacuum drying cabinet (yield: 95%).

reactant | octafluorotoluene | 0.15 mol, 35.4 g | FC(C1=C(C(=C(C(=C1F)F)F)F)F)(F)F | C7F8
reactant | potassium 4-benzyloxycarbonylphenoxide | 0.15 mol, 40 g | C(C1=CC=CC=C1)OC(=O)C1=CC=C([O-])C=C1.[K+]
reactant | potassium | [K] | K
solvent | dimethylformamide | 400 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
product | 2-(4-benzyloxycarbonylphenoxy)-1-trifluoromethyl-3,4,5,6-tetrafluorobenzene | yield: 95% | C(C1=CC=CC=C1)OC(=O)C1=CC=C(OC2=C(C(=C(C(=C2F)F)F)F)C(F)(F)F)C=C1 | C21H11F7O3
